US07547698B2
SYNTHESIS OF [4-(3,4-DIAMINOPHENYL)PIPERAZIN-1-YL](2-TRIFLUOROMETHYLPHENYL)METHANONE
To a mixture of [4-(3-amino-4-nitrophenyl)piperazin-1-yl](2-trifluoromethylphenyl)methanone (2.000 g, 5.070 mmol) and Raney Ni (0.5 mL) was added hydrazine (3 mL). The mixture was allowed to stir at room temperature for 5 h. The mixture was then filtered through celite, washed with ethyl acetate. The organic extracts were combined, washed with water and brine, concentrated, and purified by column chromatography to obtain the title compound in 88% yield (1.830 g). 1H NMR (300 MHz, CDCl3) 7.70 (d, 1H, J=7.7 Hz), 7.59 (t, 1H, J=7.3 Hz), 7.50 (t, 1H, J=7.4 Hz), 7.33 (d, 1H, J=7.5 Hz), 6.61 (d, 1H, J=8.3 Hz), 6.34 (d, 1H, J=2.5 Hz), 6.28 (dd, 1H, J=2.6, 8.3 Hz), 3.92 (dd, 1H, J=3.4, 6.1 Hz), 3.28 (t, 1H, J=5.1 Hz), 3.12-3.02 (m, 2H), 2.94-2.80 (m, 2H). MS (ES+) m/z 365.2 (M+1).

reactant | [4-(3-amino-4-nitrophenyl)piperazin-1-yl](2-trifluoromethylphenyl)methanone | 5.070 mmol, 2.000 g | NC=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C18H17F3N4O3
reactant | hydrazine | 3 mL | NN | H4N2
catalyst | Ni | 0.5 mL | [Ni] | Ni
product | [4-(3,4-DIAMINOPHENYL)PIPERAZIN-1-YL](2-TRIFLUOROMETHYLPHENYL)METHANONE | 88% yield | NC=1C=C(C=CC1N)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C18H19F3N4O
